US09163021B2
(1-Cyclopropyl-5-trifluoromethyl-1H-pyrazol-4-yl)-acetic acid
To a solution of (1-Cyclopropyl-5-trifluoromethyl-1H-pyrazol-4-yl)-acetonitrile (Preparation 98, 700 mg, 3.25 mmol) in EtOH (15 mL) was added aqueous 1N NaOH (15 mL). The resulting solution was heated at 60° C. for 16 hours. The mixture was concentrated in vacuo and the residue was dissolved in water (10 mL) and washed with EtOAc. The aqueous layer was acidified to pH5 using 1N HCl and extracted with 10% IPA in DCM (4×30 mL). The organic layer was dried (Na2SO4) and evaporated in vacuo to afford the title compound as a solid (85%, 650 mg).

reactant | (1-Cyclopropyl-5-trifluoromethyl-1H-pyrazol-4-yl)-acetonitrile | 3.25 mmol, 700 mg | C1(CC1)N1N=CC(=C1C(F)(F)F)CC#N | C9H8F3N3
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
reactant | EtOH | 15 mL | CCO | C2H6O
product | (1-Cyclopropyl-5-trifluoromethyl-1H-pyrazol-4-yl)-acetic acid | 650 mg, 85% | C1(CC1)N1N=CC(=C1C(F)(F)F)CC(=O)O | C9H9F3N2O2
